US07629473B2
Methanesulfonyl chloride (7.7 mL, 97 mmol) in 100 mL dry THF is added to a solution of 3-(2-bromo-phenyl)-propan-1-ol (17.4 g, 80.9 mmol) and triethyl amine (14.7 g, 146 mmol) in 200 mL dry THF at 0° C. under an argon atmosphere. Water is added and the mixture is extracted with ethyl acetate. The organic phase is washed with brine, dried with MgSO4 and concentrated in vacuo to give 23 g (97%) methanesulfonic acid 3-(2-bromo-phenyl)-propyl ester as an oil. Methanesulfonic acid 3-(2-bromo-phenyl)-propyl ester (23 g, 78 mmol) in 300 mL dry DMF is added to a suspension of potassium cyanide (15.3 g, 235 mmol) in dry DMF. The reaction mixture is stirred at 60° C. for 16 hours. Water is added and the mixture is extracted with ethyl acetate (3 times). The organic phase is washed with brine (twice), dried with MgSO4 and concentrated in vacuo. The residue is placed on a plug of silica gel and eluted with ethyl acetate/heptane (1:4) and concentrated in vacuo to give 16.0 g 4-(2-bromo-phenyl)-butyronitrile (91%) as an oil. 300 mL concentrated HCl is added to 4-(2-bromo-phenyl)-butyronitrile (16.0 g, 71 mmol) in 150 mL acetic acid. The reaction mixture is stirred at 60° C. for 16 hours. The reaction mixture concentrated in vacuo partly and is poured into water. The mixture is extracted with ethyl acetate (3 times). The organic phase is washed with brine (twice), dried with MgSO4 and concentrated in vacuo to give the title compound as a crystalline material.

reactant | Methanesulfonic acid 3-(2-bromo-phenyl)-propyl ester | 78 mmol, 23 g | BrC1=C(C=CC=C1)CCCOS(=O)(=O)C | C10H13BrO3S
reactant | potassium cyanide | 235 mmol, 15.3 g | [C-]#N.[K+]
reactant | Water | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-(2-bromo-phenyl)-butyronitrile | 16.0 g, 91% | BrC1=C(C=CC=C1)CCCC#N | C10H10BrN
